US08211901B2
Preparation of N-(2-amino-4-methoxyphenyl)-6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthamide
The title compound (43.2 mg, 87% yield) was prepared as a brown solid from 6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthoic acid (37.6 mg, 0.1 mmol) and 4-methoxy-o-phenylenediamine (16.5 mg, 0.12 mmol) by an analogous procedure to that described in example 16. 1H NMR (DMSO-d6) δ 3.70 (s, 3H, —OCH3), 4.01 (s, 6H, 2×OCH3), 5.00 (s, 2H, benzene-NH2), 6.23 (dd, J=2.6 and 8.6 Hz, 1H, Ar—H), 6.40 (d, J=2.6 Hz, 1H, Ar—H), 7.22 (d, J=8.6 Hz, 1H, Ar—H), 7.41 (s, 1H, Ar—H), 7.59 (dd, J=2.2 and 9.1 Hz, 1H, Ar—H), 7.62-7.66 (m, 2H, Ar—H), 7.86 (d, J=6.9 Hz, 1H, Ar—H), 7.96 (d, J=2.0 Hz, 1H, Ar—H), 8.07 (d, J=8.2 Hz, 1H, Ar—H), 8.38 (d, J=9.2 Hz, 1H, Ar—H), 8.54 (s, 1H, Ar—H), 9.70 (s, 1H, benzene-NH). LC-MS (m/z) 497 (M+1).

reactant | 6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthoic acid | 0.1 mmol, 37.6 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C21H16N2O5
reactant | 4-methoxy-o-phenylenediamine | 0.12 mmol, 16.5 mg | COC1=CC(=C(C=C1)N)N | C7H10N2O
product | N-(2-amino-4-methoxyphenyl)-6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthamide | 43.2 mg, 87% yield | NC1=C(C=CC(=C1)OC)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C28H24N4O5
